US05473003
27 g (200 mmol) of aluminium chloride, 6.5 ml (50 mmol) of glutaric acid chloride and 250 ml of methylene chloride are initially introduced into a 500 ml three-necked round-bottomed flask. The suspension is cooled to -60° C. and a solution of 18 g (110 mmol) of 2-tert-butyl-6-methylphenol in 30 ml of methylene chloride is added dropwise in the course of about 30-40 minutes. The hydrochloric acid gas which evolves is collected in water. The reaction mixture is stirred at -50° C. for 30 minutes and is then poured onto ice. After addition of 20 ml of concentrated hydrochloric acid, the mixture is stirred for about 10 minutes. The phases are separated and the organic phase is dried over sodium sulfate and freed from the solvent on a rotary evaporator. The 20 g of crude product thus obtained are purified by column chromatography (SiO2, toluene/ethyl acetate 19:1). 12 g (56% of theory) of 1,5-di(3'-tert-butyl-5'-methyl-4'-hydroxyphenyl)-1,5-pentanedione of melting point 156°-158° C. result. The vibration band of the CO groups in the infra-red spectrum appears at 1663.7 cm-1.

reactant | aluminium chloride | 200 mmol, 27 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | glutaric acid chloride | 50 mmol, 6.5 ml | C(CCCC(=O)Cl)(=O)Cl | C5H6Cl2O2
reactant | 2-tert-butyl-6-methylphenol | 110 mmol, 18 g | C(C)(C)(C)C1=C(C(=CC=C1)C)O | C11H16O
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 250 ml | C(Cl)Cl | CH2Cl2
product | 1,5-di(3'-tert-butyl-5'-methyl-4'-hydroxyphenyl)-1,5-pentanedione | 12 g, 56% | C(C)(C)(C)C=1C=C(C=C(C1O)C)C(CCCC(=O)C1=CC(=C(C(=C1)C)O)C(C)(C)C)=O | C27H36O4
